US05256824
To a mixture of 5% aqueous solution of potassium hydroxide (4.7 ml) and tetrahydrofuran (4.7 ml) was added a solution of 4-oxo-2,2-dicyclopropylpentanal (1.88 g) in diethyl ether (9.4 ml). The mixture was heated at 38° C. to 45° C. for 3 hours and cooled. The aqueous layer was saturated with sodium chloride. The mixture was extracted with diethyl ether and the extract was washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was purified by distillation under reduced pressure to give 4,4-dicyclopropyl-2-cyclopenten-1-one (1.55 g).

reactant | potassium hydroxide | 4.7 ml | [OH-].[K+]
reactant | tetrahydrofuran | 4.7 ml | O1CCCC1 | C4H8O
reactant | 4-oxo-2,2-dicyclopropylpentanal | 1.88 g | O=C(CC(C=O)(C1CC1)C1CC1)C | C11H16O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethyl ether | 9.4 ml | C(C)OCC | C4H10O
product | 4,4-dicyclopropyl-2-cyclopenten-1-one | 1.55 g | C1(CC1)C1(C=CC(C1)=O)C1CC1 | C11H14O
